US04035512
To a solution of 1.0 g. of trans-2-amino-6-benzyloxy-1-hydroxy-5-methoxycarbonyl-1,2,3,4-tetrahydronaphthalene in 20 ml. of ethyl acetate are added 5 ml. of water and 400 mg. of ethyl chlorcarbonate, and with stirring at room temperature, 1.0 g. of anhydrous potassium carbonate is added in small portions. After one-hour stirring, the organic layer is recovered, washed with water, dried and concentrated under reduced pressure. The residue is recrystallized from ethyl acetate-n-hexane to obtain trans-6-benzyloxy-2-ethoxycarbonylamino-1-hydroxy-5-methoxycarbonyl-1,2,3,4-tetrahydronaphthalene as colorless needles melting at 147°-148° C.

reactant | trans-2-amino-6-benzyloxy-1-hydroxy-5-methoxycarbonyl-1,2,3,4-tetrahydronaphthalene | N[C@H]1[C@@H](C2=CC=C(C(=C2CC1)C(=O)OC)OCC1=CC=CC=C1)O | C19H21NO4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | ethyl chlorcarbonate | C(OCC)(=O)Cl | C3H5ClO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | trans-6-benzyloxy-2-ethoxycarbonylamino-1-hydroxy-5-methoxycarbonyl-1,2,3,4-tetrahydronaphthalene | C(C1=CC=CC=C1)OC=1C(=C2CC[C@H]([C@@H](C2=CC1)O)NC(=O)OCC)C(=O)OC | C22H25NO6
